US07173042B2
6-Cyano-4-hydroxyquinoline-3-carboxylic acid ethyl ester
To 100 mL vigorously refluxing diphenyl ether (Aldrich) was added in open air, in portions over the course of one hour, 10.5 g (36.5 mmol) diethyl 2-(4-cyanophenylamino)methylenemalonate. The solution was refluxed for one additional hour. After allowing the solution to cool to below 100° C., it was poured into 200 mL hexane. The resulting precipitate was filtered and washed well with hexane to yield 8.39 g (34.6 mmol, 94%) of the title compound as a light brown solid: MH+: 243, mp>265° C.

reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diethyl 2-(4-cyanophenylamino)methylenemalonate | 36.5 mmol, 10.5 g | C(#N)C1=CC=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC | C15H16N2O4
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 6-Cyano-4-hydroxyquinoline-3-carboxylic acid ethyl ester | 34.6 mmol, 8.39 g, 94% | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1O)C#N | C13H10N2O3
